US07435837B2
Treatment of (±)-{[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine (1.1 g, 3.57 mmol) with diisopropylethylamine (0.69 g, 5.35 mmol) and benzyl chloroformate (0.0.82 g, 4.28 mmol) generally according to the procedure described for Intermediate 12 provided 1.6 g (99%) of (±)-benzyl {[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate as a colorless oil.

reactant | (±)-{[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}amine | 3.57 mmol, 1.1 g | ClC1=C(C(=CC(=C1)Cl)Cl)C1=CC=CC=2CC(OC21)CN | C15H12Cl3NO
reactant | diisopropylethylamine | 5.35 mmol, 0.69 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.28 mmol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 1.6 g, 99% | ClC1=C(C(=CC(=C1)Cl)Cl)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H18Cl3NO3
